US05409928
(2) Preparation of 4-(3-methoxyphenylmethyl)benzaldehyde ethlyene acetal
To a solution of 4-bromobenzaldehyde ethylene acetal (1.5 g, 6.5 millimol) in tetrahydrofuran (7 ml) were added magnesium (170 mg, 7 millimol) and a small amount of iodine, and the mixture was vigorously stirred under nitrogen atmosphere. After most of magnesium was dissolved, the solution was added to a solution of 3-methoxybenzyltosylate(1.46 g, 5 millimol) and copper(I) bromidedimethylsulfide complex (50 mg, 0.25 millimol) in benzene (14 ml). The mixture was stirred at room temperature for 22 hours. Next, saturated ammonium chloride solution was added, and the mixture was extracted with ethyl acetate, the organic layer was washed with water, dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure, The residue was separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:3) to give the title compound (850 mg, 3.14 millimol, 63%).

reactant | 4-bromobenzaldehyde ethylene acetal | 6.5 millimol, 1.5 g | C1COC(C2=CC=C(C=C2)Br)O1 | C9H9BrO2
reactant | magnesium | 7 millimol, 170 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-methoxybenzyltosylate | 5 millimol, 1.46 g | COC=1C=C(CC2=C(S(=O)(=O)[O-])C=CC(=C2)C)C=CC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | benzene | 14 ml | C1=CC=CC=C1 | C6H6
catalyst | copper(I) | [Cu+]
product | 4-(3-methoxyphenylmethyl)benzaldehyde ethlyene acetal | 3.14 millimol, 850 mg, 63% | C1COC(C2=CC=C(C=C2)CC2=CC(=CC=C2)OC)O1 | C17H18O3
